2170-12-07 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9 at 9pm, Blood cultures sent, devervesed w/ 1g of
   tylenol
   -- Systolic Blood pressures in 90s, blood pressure meds d/c'd.
   Remained hypotensive, with systolics to 80s, Maps at 60.  ICP at 4.
   While CPP tolerable at 55, did not resolbed to 500cc bolus, and started
   on neo, now off.
   -- Dilantin levels appear low, but discussed with pharmacy, and
   corrected level at goal.  Discussed switch to keppra with NSGY who will
   talk it over with attending.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-6**] 10:00 PM
   Ceftazidime - [**2170-12-7**] 05:28 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Metoprolol - [**2170-12-6**] 02:00 PM
   Heparin Sodium - [**2170-12-6**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-7**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.4
C (99.4
   HR: 85 (79 - 112) bpm
   BP: 159/66(92) {90/47(59) - 159/80(98)} mmHg
   RR: 20 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
    CVP: 8 (7 - 9)mmHg
   ICP: 5 (3 - 8) mmHg
                                Total In:
                                                                  4,016 mL
                                                                    921 mL
   PO:
                                TF:
                                                                     60 mL
   IVF:
                                                                  3,796 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  1,081 mL
                                                                    225 mL
   Urine:
                                                                    897 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
                                                                    184 mL
                                                                     60 mL
   Balance:
                                                                  2,935 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 410 (410 - 490) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/38/154/26/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   11.2 g/dL
   122 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   59 mg/dL
   101 mEq/L
   138 mEq/L
   33.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2170-12-2**]  10:24 PM
                            [**2170-12-3**]  12:11 AM
                            [**2170-12-3**]  01:31 AM
                            [**2170-12-3**]  03:04 PM
                            [**2170-12-6**]  07:30 AM
                            [**2170-12-6**]  09:12 AM
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
   WBC
   7.8
   8.9
   Hct
   34.3
   33.7
   Plt
   224
   214
   Cr
   1.2
   1.7
   1.8
   TropT
   0.09
   TCO2
   33
   33
   33
   24
   24
   27
   Glucose
   118
   122
   Other labs: PT / PTT / INR:16.3/92.8/1.4, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:410/296, Alk Phos / T Bili:155/0.8,
   Amylase / Lipase:78/132, Differential-Neuts:70.9 %, Lymph:14.8 %,
   Mono:11.1 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:306 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Vanco: 29.9
   Hepatology serologies and iron studies pending
   Imaging: INGS: Note is made that this is a limited study due to the
   patient's body
   habitus. The gallbladder is not distended and there are no gallstones.
   There
   is no gallbladder wall edema and no pericholecystic fluid is seen.
   There is
   no biliary dilatation and the common duct measures 0.6 cm. The portal
   vein is
   patent with hepatopetal flow. No focal or textural abnormality is seen
   within
   the liver; however, the hepatic assessment is limited due to the
   patient's
   body habitus. No ascites is seen in the right upper quadrant.
   IMPRESSION: No evidence of cholecystitis and no biliary dilatation
   seen.
   Microbiology: All cultures NGTD
   Assessment and Plan
   Assessment and Plan:
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures). Pt was
   improving clinically and was briefly on the floor, however he developed
   altered mental status due to ventriculitis. He also developed a large
   DVT of the LLE which is impairing circulation and a large R PE.
   Finally, he remains febrile with abdominal pain concerning for
   cholecystitis v pancreatitis.
   .
   # Intraventricular hemorrhage: Believed due to ICH from hypertensive
   emergency. Had significant blood in the ventricles initially. Requires
   ongoing decompression of his ventricles with ventrilostomies.
   - Neurosurgery following. Recommendations greatly appreciated. Pager
   [**Numeric Identifier 3245**]
   - Continue ventriculostomies in place with goal ICP<20cmH2O
   - Continue Phenytoin Sodium (IV) 200 mg IV Q8H as seizure prophylaxis
   - Goal Phenytoin level 15-20 (currently at corrected goal), but will
   d/w NSGY if can switch to keppra w/ LFT abn.
   - Permissive hypertension to SBP between 120-160. d/c
   antihypertensive meds with low BPs last night.  Now off pressors, will
   continue to monitor.
   .
   # Hypoxic respiratory failure: Likely due to PE.
   - Intubated for now
   - Treating PE as below
   - tolerating CPAP overnight, will consider extubation today.
   .
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis, PICC line advanced in the RV, and
   generally poor medical status.
   - Continue heparin drip with goal PTT 60-100
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   .
   # LLE DVT: Significant DVT on the L. Concern for vascular compromise
   from back flow venous hypertension.
   - Vascular surgery following. Recommendations appreciated.
   - Keep LLE elevated and wrapped in a compression bandage
   - Heparinize as above for PE
   .
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies in place.
   - Infectious disease following. Recommendations greatly appreciated.
   - Will keep ventriculostomies in place for now and plan to antibiose
   for at least 14 days after tube removal as hardware is a nidus for
   infection
   - Continue vancomycin 1g IV Q12H until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - CSF and blood cultures pending
   .
   # Fevers: Ventricultiis vs. clot burden likely source of continued
   fevers.  No evidence of acute cholycstitis on ultrasound.  No new
   infiltrates on CXR. Will resend UA/Urince Cx.
   .
   # LFT abnormalities: DDx includes cholecystitis or pancreatitis given
   pain, rising transaminases, elevated lipase, and ? hemoconcentration.
   No cholecystitis on u/s. Has been on dylantin which is hepatotox.c
   - BCx pending
   - Trend transaminases and lipase
   - If lipase rises, will obtain abdominal CT to evaluate pancreatitis
   - IVF
   - Switch propofol to fentanyl plus midazolam for now, discussed with
   NSGY
   - holding TF, more for planned extubation.
   - chekcing hepatitis serologies and for hemachromotosis
   .
   # Hypertension: Will permit SPB between 120-160 for now
   - d/c
d antihypertensive meds
   - now of neo, cont to monitor.
   .
   # Diabetes: HISS
   .
   # FEN: IVF, replete electrolytes on scales, tube feeds held for planned
   extubation and trend lipase.
   # Prophylaxis: heparin ggt, H2 blocker
   # Access: R IJ, Aline
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2170-12-07 08:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 50 y o man with HTN, admitted with HA found to have a large
   intracranial hemorrhage in a setting of HTN emergency, intubated,
   transferred to the [**Hospital1 **] from OSH. Admitted to SICU, s/p B ventriculostomy
   drains, then worsening respiratory failure and fever, treated with
   vanco/ceftaz for VAP and cipro for a UTI
   Extubated [**12-1**], transferred to the floor on [**12-3**], persistent
   tachypnea and hypoxemia
   [**12-4**]: noted to be somnolent, CT head showed improvement of hemorrhage
   [**12-5**]: temp to 101.3, medicine and ID consulted, CSF with 250 WBCs,
   cultures negative.  Being treated for presumed ventriculitis with
   vanco/ceftaz.   HoTN to the 90s.  LLE swelling noted, US showed
   extensive LLE DVT. Reintubated for resp distress, PE-CT with large R
   sided PE.
   [**12-6**]: IVC filter placed by Vascular, PICC removed (had thrombus around
   it), heparin gtt started w/out a bolus.  Transferred to the MICU.
   24 Hour Events:
   Fever to 101.9 at 9pm, re-cultured
   BPs down to 80s o/n, bolused with 500 ccs, briefly on neo gtt, now off
   (ICP 4, CPP 55, MAPs 60s)
   Dilantin level low, LFTs up, changing to Keppra this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-6**] 10:00 PM
   Ceftazidime - [**2170-12-7**] 05:28 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Metoprolol - [**2170-12-6**] 02:00 PM
   Heparin Sodium - [**2170-12-6**] 09:00 PM
   Dilantin - [**2170-12-7**] 07:48 AM
   Other medications:
   Senna
   Colace
   ISS
   Famotidine
   Heparin IV SS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-7**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.9
   HR: 87 (79 - 109) bpm
   BP: 139/57(79) {90/47(59) - 159/77(92)} mmHg
   RR: 22 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   CVP: 7 (7 - 9)mmHg
   ICP: 3 (3 - 8) mmHg
                               Total In:
                                                                  4,016 mL
                                                                    959 mL
   PO:
                               TF:
                                                                     60 mL
   IVF:
                                                                  3,796 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                  1,081 mL
                                                                    429 mL
   Urine:
                                                                    897 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                    184 mL
                                                                    104 mL
   Balance:
                                                                  2,935 mL
                                                                    530 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 410 (410 - 490) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/38/154/26/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Gen: intubated, sedated, opens eyes slowly, does not follow command
   Chest: CTAB
   CV: RRR, no RV heave/PA tap, normal S1/S2
   Abd: soft, NT/ND
   Extr: warm, LLE wrapped with ACE wrap
   Labs / Radiology
   11.2 g/dL
   214 K/uL
   122 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   59 mg/dL
   101 mEq/L
   138 mEq/L
   33.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2170-12-2**]  10:24 PM
                            [**2170-12-3**]  12:11 AM
                            [**2170-12-3**]  01:31 AM
                            [**2170-12-3**]  03:04 PM
                            [**2170-12-6**]  07:30 AM
                            [**2170-12-6**]  09:12 AM
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
   WBC
   7.8
   8.9
   Hct
   34.3
   33.7
   Plt
   224
   214
   Cr
   1.2
   1.7
   1.8
   TropT
   0.09
   TCO2
   33
   33
   33
   24
   24
   27
   Glucose
   118
   122
   Other labs: PT / PTT / INR:16.3/92.8/1.4, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:410/296, Alk Phos / T Bili:155/0.8,
   Amylase / Lipase:78/132, Differential-Neuts:70.9 %, Lymph:14.8 %,
   Mono:11.1 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:306 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   ABG on 0/5 and 40%: 7.37/50/93
   Vanco: 30
   BNP 500s, Trop 0.03 x 2, 0.09
   Micro:
   Blood cultures: NGTD
   Sputum cx: pending from [**12-6**]
   Imaging:
   RUQ US: IMPRESSION: No evidence of cholecystitis and no biliary
   dilatation seen.
   CTA [**12-6**]:
   IMPRESSION:
   1. Acute pulmonary emboli involving the right interlobar pulmonary
   artery
   extending into the right lower and middle lobar branches, without
   evidence of
   right cardiac strain. Small-to-moderate pericardial effusion.
   CXR [**12-6**]:
   IMPRESSION:
   1. New right IJ central venous catheter terminating at the mid SVC.
   2. The right PICC is not well visualized on this radiograph, however
   the PICC
   is seen terminating within the right ventricle on the corresponding CTA
   exam
   from earlier today.
   2. No evidence of pneumothorax.
   3. Endotracheal tube terminating 6 cm above the carina.
   4. Bibasilar atelectasis.
   TTE [**12-6**]:
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. On the subcostal short-axis views, the
   overall left ventricular systolic function appears at least mildly
   depressed. Right ventricular chamber size and free wall motion are
   normal. There is a small pericardial effusion. The effusion appears
   circumferential. No right atrial or right ventricular diastolic
   collapse is seen.
   IMPRESSION: Normal right ventricular size and global systolic function.
   At least mild left ventricular systolic dysfunction. Small pericardial
   effusion.
   Assessment and Plan
   50 y o man with HTN, admitted with ICH [**1-15**] HTN emergency, then with
   course c/b VAP, now with R sided PEs
   1. ICH: s/p ventriculostomy drain, with continued output, ICP 5 this
   am.
   - ICP goal < 20
   - Change  to Keppra for SZ prophylaxis
   - goal SBPs 120s-160s per NSG
   2. Respiratory failure: reintubated in a setting of recurrent
   hypoxemia, found to have R sided PEs, rest of lung parenchyma looks
   largely clear, so VAP much improved.  s/p IVC filter, on heparin w/out
   a bolus
   - continue heparin gtt with goal PTT 60-80
   - wean sedation, SBT with potential extubation today
   - check hypercoag panel
   3. Neuro:  sedated now on the [**Last Name (LF) 494**], [**Name8 (MD) **] RN report, was following
   commands earlier today.  LP with neg culture, per ID, c/w
   ventriculitis.
   - wean sedation
   - continue vanco/ceftaz for ventriculitis (hold vanco today given
   trough of 30), check another trough tomorrow
   - f/up ID recs
   - f/up NSG recs re: ventriculostomy drain
   4. Fever: s/p course for VAP, now with known DVT/PE, resolving VAP, and
   likely ventriculitis per ID.  Could also be from clot burden.  LFTs
   [**Last Name (LF) 548**], [**First Name3 (LF) **]/lipase up, RUQ w/out cholecystitis.  ?[**1-15**] dilantin,
   - trend LFTs/[**Doctor First Name **]/lipase
   - limit Tylenol to 2gm/day
   - f/up hepatitis serologies and hemachromatosis labs
   - switch to keppra
   5. Hypotension: BPs in the 80s o/n, briefly on neo overnight, now off.
   CTA with pericardial effusion.  No RH strain by exam. TTE yesterday
   with small pericardial effusion
   - Monitor BPs, consider repeat TTE if recurrent HoTN
   6. ARF:  ?CIN given contrast load for PE-CT, slow rise today.  Got
   bicarb and mucomyst yesterday.
   - check UA, UCx, urine lytes
   - check urine sediment
   - monitor UOP
   ICU Care
   Nutrition: NPO for ?extubation today
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: Heparin Tx gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, chlorhexidine
   Communication:  will update family
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 min CCT
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 214**]
s note
   above, including assessment and plan. 50 yo male with ICH s/p
   ventriculostomy, course complicated by VAP. To ICU yesterday with
   worsening tachypnea/acute respiratory failure requiring intubation
   found to have PE and on anticoagulation. Patient successfully extubated
   today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2170-12-7**] 20:35 ------

2170-12-08 07:00:00 Physician Resident Progress Note
Chief Complaint: PE, DVT
   24 Hour Events:
   -- Extubated with baseline mental status and now on minimal oxygen
   requirements
   -- ID - Hold Vancomycin for now. Consider stoppin Ceftaz tommorow if
   CSF culture benign
   -- Changed Dilantin to Keppra in case Dilantin worsening liver function
   (Should uptitrate - to 1g [**Hospital1 7**] after 2 days)
   -- Family updated
   -- Hold Vanco for high level and changed to 1 g daily per pharmacy
   -- Restarted Hydral PRN and Metprolol PRN to keep SBP less than 170
   mmHg. Restarted clonidine patch, but did not restart lisinopril yet.
   -- Did well on clear diet. Advanced to Regular.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-7**] 10:20 PM
   Ceftazidime - [**2170-12-8**] 05:43 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Dilantin - [**2170-12-7**] 07:48 AM
   Fentanyl - [**2170-12-7**] 10:19 PM
   Metoprolol - [**2170-12-8**] 01:27 AM
   Hydralazine - [**2170-12-8**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-8**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 88 (84 - 93) bpm
   BP: 150/73(97) {127/55(76) - 180/78(105)} mmHg
   RR: 26 (20 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
    CVP: 11 (4 - 17)mmHg
   ICP: 10 (2 - 12) mmHg
   Total In:
                                                                  2,010 mL
                                                                    274 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,910 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,569 mL
                                                                    492 mL
   Urine:
                                                                  1,355 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
                                                                    214 mL
                                                                     57 mL
   Balance:
                                                                    441 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (438 - 438) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 72
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: 7.47/34/147/26/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Gen: Extubated, follows commands
   Chest: CTAB
   CV: RRR, no RV heave/PA tap, normal S1/S2
   Abd: soft, NT/ND
   Extr: warm, LLE wrapped with ACE wrap
   Labs / Radiology
   208 K/uL
   10.8 g/dL
   111 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   46 mg/dL
   103 mEq/L
   140 mEq/L
   32.5 %
   6.9 K/uL
        [image002.jpg]
                            [**2170-12-6**]  07:30 AM
                            [**2170-12-6**]  09:12 AM
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
   WBC
   8.9
   6.9
   Hct
   33.7
   32.5
   Plt
   214
   208
   Cr
   1.7
   1.8
   1.5
   TropT
   0.09
   TCO2
   24
   24
   27
   30
   28
   25
   Glucose
   122
   111
   Other labs: PT / PTT / INR:15.9/74.8/1.4, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:323/178, Alk Phos / T Bili:158/0.6,
   Amylase / Lipase:78/132, Differential-Neuts:70.9 %, Lymph:14.8 %,
   Mono:11.1 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:298 IU/L, Ca++:8.3 mg/dL, Mg++:1.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 INTRACEREBRAL HEMORRHAGE (ICH)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures). Pt was
   improving clinically and was briefly on the floor, however he developed
   altered mental status due to ventriculitis. He also developed a large
   DVT of the LLE which is impairing circulation and a large R PE.
   Finally, he remains febrile with abdominal pain concerning for
   cholecystitis v pancreatitis.
   .
   # Intraventricular hemorrhage: Believed due to ICH from hypertensive
   emergency. Had significant blood in the ventricles initially. Requires
   ongoing decompression of his ventricles with ventrilostomies.
   - Neurosurgery following. Recommendations greatly appreciated. Pager
   [**Numeric Identifier 3245**]
   - Continue ventriculostomies in place with goal ICP<20cmH2O
   - Continue Phenytoin Sodium (IV) 200 mg IV Q8H as seizure prophylaxis
   - Goal Phenytoin level 15-20 (currently at corrected goal), but will
   d/w NSGY if can switch to keppra w/ LFT abn.
   - Permissive hypertension to SBP between 120-160. d/c
   antihypertensive meds with low BPs last night.  Now off pressors, will
   continue to monitor.
   .
   # Hypoxic respiratory failure: Likely due to PE.
   - Intubated for now
   - Treating PE as below
   - tolerating CPAP overnight, will consider extubation today.
   .
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis, PICC line advanced in the RV, and
   generally poor medical status.
   - Continue heparin drip with goal PTT 60-100
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   .
   # LLE DVT: Significant DVT on the L. Concern for vascular compromise
   from back flow venous hypertension.
   - Vascular surgery following. Recommendations appreciated.
   - Keep LLE elevated and wrapped in a compression bandage
   - Heparinize as above for PE
   .
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies in place.
   - Infectious disease following. Recommendations greatly appreciated.
   - Will keep ventriculostomies in place for now and plan to antibiose
   for at least 14 days after tube removal as hardware is a nidus for
   infection
   - Continue vancomycin 1g IV Q12H until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - CSF and blood cultures pending
   .
   # Fevers: Ventricultiis vs. clot burden likely source of continued
   fevers.  No evidence of acute cholycstitis on ultrasound.  No new
   infiltrates on CXR. Will resend UA/Urince Cx.
   .
   # LFT abnormalities: DDx includes cholecystitis or pancreatitis given
   pain, rising transaminases, elevated lipase, and ? hemoconcentration.
   No cholecystitis on u/s. Has been on dylantin which is hepatotox.c
   - BCx pending
   - Trend transaminases and lipase
   - If lipase rises, will obtain abdominal CT to evaluate pancreatitis
   - IVF
   - Switch propofol to fentanyl plus midazolam for now, discussed with
   NSGY
   - holding TF, more for planned extubation.
   - chekcing hepatitis serologies and for hemachromotosis
   .
   # Hypertension: Will permit SPB between 120-160 for now
   - d/c
d antihypertensive meds
   - now of neo, cont to monitor.
   .
   # Diabetes: HISS
   .
   # FEN: IVF, replete electrolytes on scales, tube feeds held for planned
   extubation and trend lipase.
   # Prophylaxis: heparin ggt, H2 blocker
   # Access: R IJ, Aline
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-12-08 08:11:00 Physician Attending Progress Note
Chief Complaint: ICH, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 50 y o man with HTN, admitted with HA found to have a large
   intracranial hemorrhage in a setting of HTN emergency, intubated,
   transferred to the [**Hospital1 **], s/p B ventriculostomy drains, then worsening
   respiratory failure and fever, treated with vanco/ceftaz for VAP and
   cipro for a UTI, extubated [**12-1**], then reintubated [**12-6**] for worsening
   resp failure, found to have DVT/PE, s/p IVC filter, now extubated again
   24 Hour Events:
   Extubated yesterday, now on NC
   MS improved, still waxing/[**Doctor Last Name 533**]
   Vanco held for high level yesterday
   Dilantin d/ced, Keppra started for SZ prophy  b/c of elevated LFTs
   Received PRN hydral and metoprolol for BP control o/n
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-7**] 10:20 PM
   Ceftazidime - [**2170-12-8**] 05:43 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2170-12-7**] 10:19 PM
   Metoprolol - [**2170-12-8**] 01:27 AM
   Hydralazine - [**2170-12-8**] 05:20 AM
   Other medications:
   Ceftazidime 2 IV Q8
   Senna, colace
   ISS
   Pepcid PO
   Heparin gtt
   Keppra 500 PO BID
   Clonidine patch 0.2
   Vancomycin 1250 IV Q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-8**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 88 (84 - 93) bpm
   BP: 150/73(97) {127/55(76) - 180/78(105)} mmHg
   RR: 26 (20 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   CVP: 11 (4 - 17)mmHg
   ICP: 10 (2 - 12) mmHg
   Total In:
                                                                  2,010 mL
                                                                    339 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,910 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  1,569 mL
                                                                    492 mL
   Urine:
                                                                  1,355 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
                                                                    214 mL
                                                                     57 mL
   Balance:
                                                                    441 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/34/147/26/2
   PaO2 / FiO2: 420
   Physical Examination
   Gen: awake, alert, confused
   Chest: decreased breath sounds at B bases, CTA anteriorly
   CV: RRR, no m, ?soft intermittent R sided S3, no PA tap/RV heave
   Abd: soft, obese, + BS
   Extr: warm, DPs 1+ B, ACE wrap on LLE
   Neuro: A+O to name,
[**State 3526**]
[**2149**]
.  Moving [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 12357**],
   grip [**4-17**] in B UEs. CNs grossly intact.
   Labs / Radiology
   10.8 g/dL
   208 K/uL
   111 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   46 mg/dL
   103 mEq/L
   140 mEq/L
   32.5 %
   6.9 K/uL
        [image002.jpg]
                            [**2170-12-6**]  07:30 AM
                            [**2170-12-6**]  09:12 AM
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
   WBC
   8.9
   6.9
   Hct
   33.7
   32.5
   Plt
   214
   208
   Cr
   1.7
   1.8
   1.5
   TropT
   0.09
   TCO2
   24
   24
   27
   30
   28
   25
   Glucose
   122
   111
   Other labs: PT / PTT / INR:15.9/74.8/1.4, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:323/178, Alk Phos / T Bili:158/0.6,
   Amylase / Lipase:78/132, Differential-Neuts:70.9 %, Lymph:14.8 %,
   Mono:11.1 %, Eos:2.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:298 IU/L, Ca++:8.3 mg/dL, Mg++:1.3 mg/dL, PO4:3.1 mg/dL
   Vanco level: 6.3, was 17 yest pm, and 29 yest am
   Micro: no new growth, ucx pending
   CXR:  RIJ in, stable wide mediastinum, low lung volumes, mild
   cephalization and peribronchial cuffing, slightly increased from
   yesterday
s film
   Assessment and Plan
   50 y o man with HTN, admitted with ICH [**1-15**] HTN emergency, then with
   course c/b VAP, now with R sided PEs
   1. ICH: s/p ventriculostomy drain, with continued output, ICP 10-11.
   - ICP goal < 20
   - Continue Keppra for SZ prophylaxis, increase to 1000 [**Hospital1 7**] tomorrow
   - relaxing BP goals per NSG, goal = normotensive
   2. Respiratory failure: reintubated in a setting of recurrent
   hypoxemia, found to have R sided PEs, rest of lung parenchyma looks
   largely clear, so VAP much improved.  s/p IVC filter, on heparin w/out
   a bolus.  Extubated yesterday, now on 4L NC.  TBB slightly positive, O2
   needs up from 2L to 4L
   - gentle diuresis given PE: goal TBB -500 ccs today
   - continue heparin gtt with goal PTT 60-80
   - f/up hypercoag panel
   - age-appropriate cancer screening as outpatient
   3. Neuro:  sedated now on the [**Last Name (LF) 494**], [**Name8 (MD) **] RN report, was following
   commands earlier today.  LP with neg culture, per ID, c/w
   ventriculitis.  Vanco level high yest, dose changed to 1250 daily.
   - continue vanco/ceftaz for ventriculitis x 2 weeks p ventriculostomy
   drains removed
   - check vanco trough tomorrow
   - f/up ID recs
   - per NSG recs re: ventriculostomy drain, likely in through the
   weekend, ?out Monday
   4. Fever: s/p course for VAP, now with known DVT/PE, resolving VAP, and
   likely ventriculitis per ID.  Could also be from clot burden.  LFTs
   rose, now trending down.  RUQ w/out cholecystitis.  Fever curve now
   trending down.
   - continue to trend LFTs/[**Doctor First Name **]/lipase
   - limit Tylenol to 2gm/day
   - f/up hepatitis serologies and hemachromatosis labs
   5. BP:  had hypotension 2 nights ago, now hypertensive. Was on
   clonidine patch on neuron floor, restarted this am.  CTA with
   pericardial effusion.  No RH strain by exam. TTE yesterday with small
   pericardial effusion.
   - add standing BBL, transition off clonidine
   - ACEI once Cr normalizes
   6. ARF:  ?CIN given contrast load for PE-CT, slow rise today.  Got
   bicarb and mucomyst yesterday. +rare urine eos.  Cr coming down.
   - f/up UCx
   - diuresing today
   ICU Care
   Nutrition: will try PO diet today
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: on tx heparin gtt
   Stress ulcer:  pepcid
   Communication:
   Code status: Full code
   Disposition: possible for floor later today
   Total time spent:  35 min CCT

2170-12-09 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   removed.
   Plan to start 1g [**Hospital1 7**] keppra [**12-9**]
   NS may remove drains monday. Goal BP "normotensive"
   Added 12.5mg metoprolol to regimen for slightly better control.
   O2 req. up slightly this am. CXR looks wet. Got 20mg IV lasix and
   didn't respond great so got 40mg IV.
   Urine eos positive and diff with 5% eos but cr. trending down, if going
   back up consider AIN and get rid of Ceftaz.
   Tolerating clear liqs but not wanting much of them.
   Right drain with some decreased output throughout the day, per NS it
   still drains well when put to gravity so no occlusion, just decreased
   out put.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-8**] 09:59 AM
   Ceftazidime - [**2170-12-9**] 06:54 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 76 (76 - 88) bpm
   BP: 161/75(97) {133/64(85) - 165/81(103)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
    CVP: 5 (4 - 12)mmHg
   ICP: 5 (3 - 12) mmHg
   Total In:
                                                                  1,199 mL
                                                                    265 mL
   PO:
   TF:
   IVF:
                                                                  1,199 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  2,658 mL
                                                                    709 mL
   Urine:
                                                                  2,485 mL
                                                                    654 mL
   NG:
   Stool:
   Drains:
                                                                    173 mL
                                                                     55 mL
   Balance:
                                                                 -1,459 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen: Extubated, follows commands, NAD
   Chest: Coarse breath sounds bilaterally, no wheeze/rhonchi
   CV: RRR, no RV heave/PA tap, normal S1/S2
   Abd: soft, obese, NT/ND, no HSM
   Extr: warm, LLE wrapped with ACE wrap
   Neuro: A and Ox1, Speaks with single words, Appears to understand
   questions
   Labs / Radiology
   197 K/uL
   10.5 g/dL
   124 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.6 mEq/L
   62 mg/dL
   108 mEq/L
   143 mEq/L
   32.0 %
   5.0 K/uL
        [image002.jpg]
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
   WBC
   8.9
   6.9
   5.0
   Hct
   33.7
   32.5
   32.0
   Plt
   [**Telephone/Fax (3) 12371**]
   Cr
   1.7
   1.8
   1.5
   1.7
   1.7
   TCO2
   24
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   Other labs: PT / PTT / INR:17.5/73.8/1.6, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:321/220, Alk Phos / T Bili:175/0.5,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.2 g/dL,
   LDH:340 IU/L, Ca++:9.7 mg/dL, Mg++:3.4 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Uine: + eos / [**2-15**] granular casts
   Vanc: 23.1
   Imaging: CXR [**12-8**]:
   As compared to the previous radiograph, there is no relevant
   change. Moderate cardiomegaly with minimal overhydration. Decrease of
   retrocardiac atelectasis. No evidence of pleural effusions, no focal
   parenchymal opacity suggesting pneumonia. Unchanged position of right
   central
   venous access line.
   Assessment and Plan
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   # Intraventricular hemorrhage/Hypertension: Believed due to ICH from
   hypertensive emergency. Had significant blood in the ventricles
   initially. Requires ongoing decompression of his ventricles with
   ventrilostomies.
   - Neurosurgery following. Recommendations greatly appreciated. Pager
   [**Numeric Identifier 3245**]
   - Continue ventriculostomies in place with goal ICP<20cmH2O, raised to
   20cm.  Plan for repeat NCHCT in am, if stable, will put to clam with
   repeat imaging
   - increase Keppra to 1g [**Hospital1 7**]
   - Goal SBP less than 170 mmHg. Back on clonidine patch 0.2 td and
   increasing  metoprolol 25  mg [**Hospital1 7**] if pressure tolerates. When renal
   function stabilizes ace/betablocker combination may be effective
   without clonidine
   - Q2 hour neuro checks
   # Hypoxic respiratory failure: Likely due to PE. Completed VAP course
   already. Now extubated and on minimal oxygenation. [**Month (only) 51**] also have a
   component of fluid overload based on CXR.
   - Supplelmental O2 via NC for now
   - Heparing gtt for PE
   .
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis, PICC line advanced in the RV, and
   generally poor medical status.
   - Continue heparin drip with goal PTT 60-100 given possible upcoming
   procedures
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   - f/u hypercoaguable workup
 Factor V, antithrombin pending
   .
   # LLE DVT: Significant DVT on the L. Concern for vascular compromise
   from back flow venous hypertension.
   - Vascular surgery following. Recommendations appreciated.
   - Keep LLE elevated and wrapped in a compression bandage
   - Heparinize as above for PE
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies in place.
   Infectious disease following. Recommendations greatly appreciated.
   - Will keep ventriculostomies in place for now and plan to antibiose
   for at least 14 days after tube removal as hardware is a nidus for
   infection
   - Continue vancomycin 1.25 daily  until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - CSF and blood cultures pending
   # Acute renal failure: Thought to be due to contrast nephropathy. Cr
   improved from 1.8 to 1.5. Also urine positive for eos in the setting of
   betalactam use, raising suspicion for AIN.
   - Trend Cr daily
   - Peripheral CBC with diff
   - If Cr worsens, may need to consider stopping betalactam
   - resent UA today
   # LFT abnormalities: Improving markedly and may have been related to
   phenytoin/propafol vs shock liver.
   - Dilantin changed to keppra as noted above
   - Trend LFts and lipase
   - BCx pending
   - Trend transaminases and lipase
   - f/u hepatitis serologies
   .
   # Diabetes: HISS
   ICU Care
   Nutrition:
   Comments: Cardiac/Heart healthy Consistency: Ground (dysphagia); Thin
   liquids:  Needs new S/S eval
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-12-09 10:57:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   to keppra due to elevated LFTs. BP recovered now hypertensive and
   titrating up bblocker. O2 requirement increased  started on diuresis.
   Creatinine up trending. Tolerating mechanical soft diet. Peripheral
   eosinphilia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2170-12-9**] 06:54 AM
   Vancomycin - [**2170-12-9**] 08:17 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   ceftaz 2 q8, senna, colace, insulin ss, pepcid, heparin drip, keppra 1g
   [**Hospital1 **], clonidine patch, vancomycin, lopressor [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-9**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 76 (75 - 88) bpm
   BP: 164/79(104) {139/65(88) - 175/81(104)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   CVP: 12 (4 - 12)mmHg
   ICP: 15 (3 - 15) mmHg
   Total In:
                                                                  1,199 mL
                                                                    729 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,199 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                  2,658 mL
                                                                    926 mL
   Urine:
                                                                  2,485 mL
                                                                    854 mL
   NG:
   Stool:
   Drains:
                                                                    173 mL
                                                                     72 mL
   Balance:
                                                                 -1,459 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   10.5 g/dL
   197 K/uL
   124 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.6 mEq/L
   62 mg/dL
   108 mEq/L
   143 mEq/L
   32.0 %
   5.0 K/uL
        [image002.jpg]
                            [**2170-12-6**]  05:24 PM
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
   WBC
   8.9
   6.9
   5.0
   Hct
   33.7
   32.5
   32.0
   Plt
   [**Telephone/Fax (3) 12371**]
   Cr
   1.7
   1.8
   1.5
   1.7
   1.7
   TCO2
   24
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   Other labs: PT / PTT / INR:17.5/73.8/1.6, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:321/220, Alk Phos / T Bili:175/0.5,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.2 g/dL,
   LDH:340 IU/L, Ca++:9.7 mg/dL, Mg++:3.4 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Vanco 23.1
   Microbiology: no new results.
   Assessment and Plan
 Hypoxia: wean off O2 as tolerated, diurese slowly, continue heparin
   goal PTT 60-80.
 CONSTIPATION (OBSTIPATION, FOS): continue bowel regimen.
Dm: on sliding scale.
 INTRACEREBRAL HEMORRHAGE (ICH): raised drains to +20 thiam, f/u CT
   today. Increased keppra to 1g [**Hospital1 **]. Contniiue to be intermittently very
   somnolent. Will closely monitor.
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY): titrate up Bblocker.
 Renal failure: peripheral eosinophils and urine eos. likely contrast
   induced nephropathy, cannot exclude AIN.. but will  monitor given
   stable Cr, and non oliguric state, and need for current antibiotics.
   ICU Care
   Nutrition:
   Comments: dysphagia. speech and swallow following.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw & examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
   note as outlined above, including assessment and plan. 50 yo male
   admitted with ICH s/p ventriculostomy drains, more recent hospital
   events including VAP, PE/DVT, ventriculitis. Resp status improving, MS
   continues to wax and wane requiring frequent neuro checks.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2170-12-9**] 14:28 ------

2170-12-10 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 50M with uncontrolled HTN admitted for hypertensive
   emergency complicated by hemorrhage in the basal ganglia and
   intraventricular bleeding. Hospitalization complicated by VAP which was
   successfully treated with vancomycin, ceftazidime, and ciprofloxacin
   (also empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   24 Hour Events:
   [**12-8**]
   removed.
   Plan to start 1g [**Hospital1 7**] keppra [**12-9**]
   NS may remove drains monday. Goal BP "normotensive"
   Added 12.5mg metoprolol to regimen for slightly better control.
   O2 req. up slightly this am. CXR looks wet. Got 20mg IV lasix and
   didn't respond great so got 40mg IV.
   Urine eos positive and diff with 5% eos but cr. trending down, if going
   back up consider AIN and get rid of Ceftaz.
   Tolerating clear liqs but not wanting much of them.
   Right drain with some decreased output throughout the day, per NS it
   still drains well when put to gravity so no occlusion, just decreased
   out put.
   [**12-9**]
   -- NSGY raised drains to 20, will repeat NCHCT in am, if stable, will
   clamp with plan to repeat imaging
   -- MS [**Name13 (STitle) 12386**] from morning rounds
   -- blood pressures high, increase lopressor to 25mg TID
   -- repeat UA w/ granular casts, no eos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2170-12-9**] 06:54 AM
   Vancomycin - [**2170-12-9**] 08:17 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Hydralazine - [**2170-12-9**] 08:14 PM
   Metoprolol - [**2170-12-9**] 11:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 78 (73 - 84) bpm
   BP: 161/73(96) {101/71(90) - 191/90(114)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
    CVP: 10 (4 - 15)mmHg
   ICP: 12 (4 - 18) mmHg
   Total In:
                                                                  1,214 mL
                                                                    314 mL
   PO:
                                                                    220 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    994 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    636 mL
   Urine:
                                                                  1,784 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                    166 mL
                                                                     36 mL
   Balance:
                                                                   -736 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   10.4 g/dL
   124 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.6 mEq/L
   62 mg/dL
   108 mEq/L
   143 mEq/L
   31.9 %
   4.3 K/uL
        [image002.jpg]
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
   WBC
   8.9
   6.9
   5.0
   4.3
   Hct
   33.7
   32.5
   32.0
   31.9
   Plt
   [**Telephone/Fax (3) 12387**]11
   Cr
   1.7
   1.8
   1.5
   1.7
   1.7
   TCO2
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   Other labs: PT / PTT / INR:17.5/73.8/1.6, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:321/220, Alk Phos / T Bili:175/0.5,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.2 g/dL,
   LDH:340 IU/L, Ca++:9.7 mg/dL, Mg++:3.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   # Intraventricular hemorrhage/Hypertension: Believed due to ICH from
   hypertensive emergency. Had significant blood in the ventricles
   initially. Requires ongoing decompression of his ventricles with
   ventrilostomies.
   - Neurosurgery following. Recommendations greatly appreciated. Pager
   [**Numeric Identifier 3245**]
   - Continue ventriculostomies in place with goal ICP<20cmH2O, raised to
   20cm.  Plan for repeat NCHCT in am, if stable, will put to clamp with
   repeat imaging
   - increase Keppra to 1g [**Hospital1 7**]
   - Goal SBP less than 170 mmHg. Back on clonidine patch 0.2 td and
   increasing  metoprolol 25  mg [**Hospital1 7**] if pressure tolerates. When renal
   function stabilizes ace/betablocker combination may be effective
   without clonidine
   - Q2 hour neuro checks
   # Hypoxic respiratory failure: Likely due to PE. Completed VAP course
   already. Now extubated and on minimal oxygenation. [**Month (only) 51**] also have a
   component of fluid overload based on CXR.
   - Supplelmental O2 via NC for now
   - Heparin gtt for PE
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis, PICC line advanced in the RV, and
   generally poor medical status.
   - Continue heparin drip with goal PTT 60-100 given possible upcoming
   procedures
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   - f/u hypercoaguable workup
 Factor V, antithrombin pending
   # LLE DVT: Significant DVT on the L. Concern for vascular compromise
   from back flow venous hypertension.
   - Vascular surgery following. Recommendations appreciated.
   - Keep LLE elevated and wrapped in a compression bandage
   - Heparinize as above for PE
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies in place.
   Infectious disease following. Recommendations greatly appreciated.
   - Will keep ventriculostomies in place for now and plan to antibiose
   for at least 14 days after tube removal as hardware is a nidus for
   infection
   - Continue vancomycin 1.25 daily  until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - CSF and blood cultures pending
   # Acute renal failure: Thought to be due to contrast nephropathy. Cr
   improved from 1.8 to 1.5. Also urine positive for eos in the setting of
   beta lactam use, raising suspicion for AIN.
   - Trend Cr daily
   - Peripheral CBC with diff
   - If Cr worsens, may need to consider stopping beta lactam
   - resent UA today
   # LFT abnormalities: Improving markedly and may have been related to
   phenytoin/propafol vs shock liver.
   - Dilantin changed to keppra as noted above
   - Trend LFts and lipase
   - BCx pending
   - Trend transaminases and lipase
   - f/u hepatitis serologies
   # Diabetes: HISS
   ICU Care
   Nutrition:  heart healthy diet
   Glycemic Control:
   Lines:   will request PICC, d/c a-line
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-12-10 11:21:00 Physician Attending Progress Note
Chief Complaint: 50 yo man admitted [**2170-11-25**] with hypertensive
   emergency and basal ganglia bleed.  Initially on NSGY service with
   placement of bilateral ventricular drains, initially intubated and
   treated for VAP, ultimately extubated.  With hypoxemic respiratory
   failure found to have large PE as well as upper and lower extremity
   DVTs.  IVC filter placed and placed on heparin drip with therapeutic
   anticoagulation.
   HPI:
   24 Hour Events:
   -repeat head CT today and if no significant change plan to remove
   ventriculostomy drain
   -metoprolol increased to 25mg TID
   -urine eosinophils noted [**2170-12-7**], repeat pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2170-12-9**] 06:54 AM
   Vancomycin - [**2170-12-9**] 08:17 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Hydralazine - [**2170-12-9**] 08:14 PM
   Metoprolol - [**2170-12-9**] 11:14 PM
   Famotidine (Pepcid) - [**2170-12-10**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-10**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 75 (73 - 84) bpm
   BP: 155/81(101) {101/71(90) - 191/90(114)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   CVP: 16 (4 - 16)mmHg
   ICP: 21 (6 - 21) mmHg
   Total In:
                                                                  1,214 mL
                                                                    539 mL
   PO:
                                                                    220 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    994 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    989 mL
   Urine:
                                                                  1,784 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
                                                                    166 mL
                                                                     49 mL
   Balance:
                                                                   -736 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   211 K/uL
   98 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   57 mg/dL
   106 mEq/L
   141 mEq/L
   31.9 %
   4.3 K/uL
        [image002.jpg]
                            [**2170-12-6**]  07:54 PM
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
   WBC
   8.9
   6.9
   5.0
   4.3
   Hct
   33.7
   32.5
   32.0
   31.9
   Plt
   [**Telephone/Fax (3) 12387**]11
   Cr
   1.7
   1.8
   1.5
   1.7
   1.7
   1.6
   TCO2
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   98
   Other labs: PT / PTT / INR:18.9/76.3/1.7, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:310/220, Alk Phos / T Bili:185/0.4,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:505 IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   -sp IVC filter
   -on heparin drip at therapeutic doses
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -doing well, now on 2L NC
 INTRACEREBRAL HEMORRHAGE (ICH)
   -improving mental status
   -plan for head CT and if improved will have ventriculostomy drains
   clamped, and if ICP stable may have drains removed
   -goal SBP<170
 VENTRICULITIS
   -on vancomycin and ceftazidime for goal 2 weeks after ventricular
   drains removed
 Acute renal failure
   -Cr improving
   -urine eosinophils [**12-7**] with repeat negative, unclear medication
   culprit
   -if Cr starts to rise again will need to discontinue cephalosporin
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   -controlled on just metoprolol for now, goal SBP<170
   ICU Care
   Nutrition: passed speech and swallow evaluation, ok for regular diet
   Glycemic Control:
   Lines: R sided TLC. Radial a-line.  Will plan for placement of PICC
   line.  Will remove a-line if non-invasive blood pressures correlate
   with invasive blood pressure monitoring
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Needs ICU monitoring if ventriculostomy drains to be
   clamped.
   Total time spent: 35 min

2170-12-11 07:17:00 Physician Attending Progress Note
Chief Complaint: 50 yo man admitted [**2170-11-25**] with hypertensive
   emergency and basal ganglia bleed.  Initially on NSGY service with
   placement of bilateral ventricular drains, initially intubated and
   treated for VAP, ultimately extubated.  With hypoxemic respiratory
   failure found to have large PE as well as upper and lower extremity
   DVTs.  IVC filter placed and placed on heparin drip with therapeutic
   anticoagulation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -ventricular drains clamped after head CT showed improved ventricular
   bleed
   -overnight more hypertensive despite titrating up metoprolol with SBP
   200s.  Started on nitroglycerin drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-10**] 10:16 AM
   Ceftazidime - [**2170-12-11**] 05:50 AM
   Infusions:
   Nitroglycerin - 0.3 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-12-10**] 08:15 AM
   Metoprolol - [**2170-12-10**] 10:23 PM
   Hydralazine - [**2170-12-11**] 01:13 AM
   Clonidine patch
   Other medications:
   Keppra 1gm [**Hospital1 7**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 90 (73 - 90) bpm
   BP: 141/69(89) {112/65(86) - 219/103(138)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   CVP: 10 (6 - 18)mmHg
   ICP: 14 (10 - 21) mmHg
   Total In:
                                                                  1,366 mL
                                                                    299 mL
   PO:
                                                                    320 mL
   TF:
   IVF:
                                                                  1,046 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,266 mL
                                                                    650 mL
   Urine:
                                                                  2,200 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
                                                                     66 mL
   Balance:
                                                                   -900 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Alert but not oriented.  Following commands, moving all extremities
   Lungs clear
   RRR
   +BS, soft, nontender
   LLE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   244 K/uL
   118 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   49 mg/dL
   108 mEq/L
   144 mEq/L
   31.6 %
   4.2 K/uL
        [image002.jpg]
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
                            [**2170-12-11**]  05:23 AM
   WBC
   8.9
   6.9
   5.0
   4.3
   4.2
   Hct
   33.7
   32.5
   32.0
   31.9
   31.6
   Plt
   [**Telephone/Fax (3) 12387**]11
   244
   Cr
   1.8
   1.5
   1.7
   1.7
   1.6
   1.6
   TCO2
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   98
   118
   Other labs: PT / PTT / INR:19.3/85.9/1.8, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:327/260, Alk Phos / T Bili:193/0.4,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:407 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   -sp IVC filter
   -on heparin drip at therapeutic doses
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -doing well, now on 2L NC
 INTRACEREBRAL HEMORRHAGE (ICH)
   -mental status unchanged from yesterday
   -repeat head CT today with ventricular drains clamped.  If no change
   ventricular drains can be removed
   -goal SBP<170, will transition clonidine patch 0.2mg/24hr to clonidine
   0.1mg q8hr with hold parameters
 VENTRICULITIS
   -on vancomycin and ceftazidime for goal 2 weeks after ventricular
   drains removed
 Acute renal failure
   -Cr improving
   -urine eosinophils [**12-7**] with repeat negative, unclear medication
   culprit at this point
   -if Cr starts to rise again will need to discontinue cephalosporin
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   -transition from clonidine patch to oral clonidine as above
   -continue metoprolol at current dose
   ICU Care
   Nutrition: recommendations as per speech and swallow
   Glycemic Control:  RISS
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM-will leave in while on
   nitroglycerin drip
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Plan for placement of PICC line once he is off nitroglycerin drip
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: on famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now while on nitroglycerin drip
   Total time spent: 30 min

2170-12-11 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 50M with uncontrolled HTN admitted for hypertensive
   emergency complicated by hemorrhage in the basal ganglia and
   intraventricular bleeding. Hospitalization complicated by VAP which was
   successfully treated with vancomycin, ceftazidime, and ciprofloxacin
   (also empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   24 Hour Events:
   -- CT head improved. NSGY requested drain clamped so long as ICP
   remains less than 20 and mental status remains stable. Possible Drain
   removal tommorow.
   -- Currently needs Q1H neuro checks so cant get called to the floor and
   Neuro stepdown only allows nsurg/neuro patients
   -- Increased Metoprolol 25 > 37.5 mg [**Hospital1 7**] for HTN. Remained hypertensive
   and did not respond to Hydral, Lopressor and Nifedipine. Started Nitro
   drip when SBP sustained greater than 200mmHg aroun 0200
   -- S and S - ground solid, thin liquids, pill crushed in purree.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-10**] 10:16 AM
   Ceftazidime - [**2170-12-11**] 05:50 AM
   Infusions:
   Nitroglycerin - 0.3 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-12-10**] 08:15 AM
   Metoprolol - [**2170-12-10**] 10:23 PM
   Hydralazine - [**2170-12-11**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 90 (73 - 90) bpm
   BP: 141/69(89) {112/65(86) - 219/103(138)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
    CVP: 10 (6 - 18)mmHg
   ICP: 14 (10 - 21) mmHg
   Total In:
                                                                  1,366 mL
                                                                    307 mL
   PO:
                                                                    320 mL
   TF:
   IVF:
                                                                  1,046 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  2,266 mL
                                                                    650 mL
   Urine:
                                                                  2,200 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
                                                                     66 mL
   Balance:
                                                                   -900 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   244 K/uL
   10.4 g/dL
   118 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   49 mg/dL
   108 mEq/L
   144 mEq/L
   31.6 %
   4.2 K/uL
        [image002.jpg]
                            [**2170-12-7**]  02:15 AM
                            [**2170-12-7**]  04:19 AM
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
                            [**2170-12-11**]  05:23 AM
   WBC
   8.9
   6.9
   5.0
   4.3
   4.2
   Hct
   33.7
   32.5
   32.0
   31.9
   31.6
   Plt
   [**Telephone/Fax (3) 12387**]11
   244
   Cr
   1.8
   1.5
   1.7
   1.7
   1.6
   1.6
   TCO2
   27
   30
   28
   25
   Glucose
   122
   111
   106
   124
   98
   118
   Other labs: PT / PTT / INR:19.3/85.9/1.8, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:327/260, Alk Phos / T Bili:193/0.4,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:407 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   # Intraventricular hemorrhage/Hypertension: Believed due to ICH from
   hypertensive emergency. Had significant blood in the ventricles
   initially. Requires ongoing decompression of his ventricles with
   ventrilostomies.
   - Neurosurgery following. Recommendations greatly appreciated. Pager
   [**Numeric Identifier 3245**]
   - Continue ventriculostomies in place with goal ICP<20cmH2O, raised to
   20cm.  Plan for repeat NCHCT in am, if stable, will put to clamp with
   repeat imaging
   - increase Keppra to 1g [**Hospital1 7**]
   - Goal SBP less than 170 mmHg. Back on clonidine patch 0.2 td and
   increasing  metoprolol 25  mg [**Hospital1 7**] if pressure tolerates. When renal
   function stabilizes ace/betablocker combination may be effective
   without clonidine
   - Q2 hour neuro checks
   # Hypoxic respiratory failure: Likely due to PE. Completed VAP course
   already. Now extubated and on minimal oxygenation. [**Month (only) 51**] also have a
   component of fluid overload based on CXR.
   - Supplelmental O2 via NC for now
   - Heparin gtt for PE
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis, PICC line advanced in the RV, and
   generally poor medical status.
   - Continue heparin drip with goal PTT 60-100 given possible upcoming
   procedures
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   - f/u hypercoaguable workup
 Factor V, antithrombin pending
   # LLE DVT: Significant DVT on the L. Concern for vascular compromise
   from back flow venous hypertension.
   - Vascular surgery following. Recommendations appreciated.
   - Keep LLE elevated and wrapped in a compression bandage
   - Heparinize as above for PE
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies in place.
   Infectious disease following. Recommendations greatly appreciated.
   - Will keep ventriculostomies in place for now and plan to antibiose
   for at least 14 days after tube removal as hardware is a nidus for
   infection
   - Continue vancomycin 1.25 daily  until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - CSF and blood cultures pending
   # Acute renal failure: Thought to be due to contrast nephropathy. Cr
   improved from 1.8 to 1.5. Also urine positive for eos in the setting of
   beta lactam use, raising suspicion for AIN.
   - Trend Cr daily
   - Peripheral CBC with diff
   - If Cr worsens, may need to consider stopping beta lactam
   - resent UA today
   # LFT abnormalities: Improving markedly and may have been related to
   phenytoin/propafol vs shock liver.
   - Dilantin changed to keppra as noted above
   - Trend LFts and lipase
   - BCx pending
   - Trend transaminases and lipase
   - f/u hepatitis serologies
   # Diabetes: HISS
   ICU Care
   Nutrition:
   Comments: ground solids, thin liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2170-12-6**] 07:00 AM
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2170-12-12 07:36:00 Physician Attending Progress Note
Chief Complaint: 50 yo man admitted [**2170-11-25**] with hypertensive
   emergency and basal ganglia bleed. Initially on neurosurgery service
   with placement of bilateral ventricular drains, initially intubated and
   treated for VAP, ultimately extubated [**12-1**] and transferred to the
   floor. On [**12-6**] with with hypoxemic respiratory failure requiring
   re-intubation,  found to have large PE as well as upper and lower
   extremity DVTs. IVC filter placed and placed on heparin drip with
   therapeutic anticoagulation, extubated [**12-7**].  Ventricular drains
   removed [**12-11**].
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -more somnolent after ventricular drains pulled, repeat head CT
   unremarkable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-11**] 10:50 AM
   Ceftazidime - [**2170-12-12**] 06:02 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Metoprolol 37.5 [**Hospital1 7**]
   Clonidine 0.1 TID
   Keppra
   Famotidine
   Senna/colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 85 (80 - 101) bpm
   BP: 133/72(85) {128/67(84) - 166/91(106)} mmHg
   RR: 28 (23 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   Height: 72 Inch
   CVP: 12 (7 - 17)mmHg
   ICP: 11 (8 - 20) mmHg
   Total In:
                                                                  1,310 mL
                                                                    324 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    520 mL
   Urine:
                                                                  1,745 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.45/40/77.[**Numeric Identifier 143**]/24/3
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender.  +BS
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Minimal response to loud voice but moves all extremities to
   painful stimuli
   Labs / Radiology
   10.3 g/dL
   275 K/uL
   117 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   42 mg/dL
   112 mEq/L
   149 mEq/L
   32.3 %
   4.3 K/uL
        [image002.jpg]
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
                            [**2170-12-11**]  05:23 AM
                            [**2170-12-11**]  07:46 PM
                            [**2170-12-12**]  04:05 AM
   WBC
   6.9
   5.0
   4.3
   4.2
   4.3
   Hct
   32.5
   32.0
   31.9
   31.6
   32.3
   Plt
   [**Telephone/Fax (3) 12421**]44
   275
   Cr
   1.5
   1.7
   1.7
   1.6
   1.6
   1.4
   TCO2
   30
   28
   25
   29
   Glucose
   111
   106
   124
   98
   118
   117
   Other labs: PT / PTT / INR:20.0/54.0/1.8, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:327/260, Alk Phos / T Bili:193/0.4,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:407 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   -IVC filter inplace
   -continue heparin drip
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -resolved, now on minimal supplemental oxygen
 INTRACEREBRAL HEMORRHAGE (ICH)
   -ventricular drains out yesterday.  Repeat head CT at 2pm, if stable
   then OK to move to floor
   -continue Keppra 1gm [**Hospital1 7**]
   -will need 2 weeks of antibiotics after drains pulled, plan to place
   PICC l ine
   -decreasing mental status likely due to hypernatremia, started on
   [1]D5W@75cc/hr, will repat Na this afternoon
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   -BP much better controlled with clonidine 0.1mg TID, continue
   metoprolol
   ICU Care
   Nutrition: oral diet but minimal intake, may need to consider NGT
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2170-12-6**] 01:00 PM.  Plan to place PICC line
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : If head CT stable can call out to floor
   Total time spent:
References
   1. mailto:[**E-mail address 12426**]

2170-12-12 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 50M with uncontrolled HTN admitted for hypertensive
   emergency complicated by hemorrhage in the basal ganglia and
   intraventricular bleeding. Hospitalization complicated by VAP which was
   successfully treated with vancomycin, ceftazidime, and ciprofloxacin
   (also empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   24 Hour Events:
   -heparin stopped, drains pulled 6 hours later, repeat head CT 4 hours
   later without change.  Heparin gtt restarted at midnight.
   -patient more somnolent so head CT repeated as above (4 hours after
   drain pull) and BG, ABG obtained.  BG normal, ABG unremarkable, head CT
   unchanged.  MS improving (initially responsive to pain only, then
   became mildly interactive and responsive to verbal stimuli)
   -heparin gtt started at midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-12-11**] 10:50 AM
   Ceftazidime - [**2170-12-12**] 06:02 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-12-12**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 85 (80 - 101) bpm
   BP: 133/72(85) {128/67(84) - 166/91(106)} mmHg
   RR: 28 (23 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141 kg (admission): 143 kg
   Height: 72 Inch
    CVP: 12 (7 - 17)mmHg
   ICP: 11 (8 - 20) mmHg
   Total In:
                                                                  1,310 mL
                                                                    332 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    520 mL
   Urine:
                                                                  1,745 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.45/40/77.[**Numeric Identifier 143**]/24/3
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   275 K/uL
   10.3 g/dL
   117 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   42 mg/dL
   112 mEq/L
   149 mEq/L
   32.3 %
   4.3 K/uL
        [image002.jpg]
                            [**2170-12-7**]  09:04 AM
                            [**2170-12-7**]  02:50 PM
                            [**2170-12-8**]  03:29 AM
                            [**2170-12-8**]  05:44 AM
                            [**2170-12-8**]  11:38 PM
                            [**2170-12-9**]  04:36 AM
                            [**2170-12-10**]  06:02 AM
                            [**2170-12-11**]  05:23 AM
                            [**2170-12-11**]  07:46 PM
                            [**2170-12-12**]  04:05 AM
   WBC
   6.9
   5.0
   4.3
   4.2
   4.3
   Hct
   32.5
   32.0
   31.9
   31.6
   32.3
   Plt
   [**Telephone/Fax (3) 12421**]44
   275
   Cr
   1.5
   1.7
   1.7
   1.6
   1.6
   1.4
   TCO2
   30
   28
   25
   29
   Glucose
   111
   106
   124
   98
   118
   117
   Other labs: PT / PTT / INR:20.0/54.0/1.8, CK / CKMB /
   Troponin-T:96//0.09, ALT / AST:327/260, Alk Phos / T Bili:193/0.4,
   Amylase / Lipase:78/132, Differential-Neuts:74.1 %, Lymph:13.8 %,
   Mono:6.7 %, Eos:4.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL,
   LDH:407 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: HEAD CT [**12-11**]: PFI: Unchanged intraventricular hemorrhage
   status post removal of ventriculostomy catheters with unchanged
   dilation of the right frontal [**Doctor Last Name 758**] of the lateral ventricle.
   Assessment and Plan
   50M with uncontrolled HTN admitted for hypertensive emergency
   complicated by hemorrhage in the basal ganglia and intraventricular
   bleeding. Hospitalization complicated by VAP which was successfully
   treated with vancomycin, ceftazidime, and ciprofloxacin (also
   empirically for a possible UTI, but no positive cultures),
   ventriculits, and DVT/PE.
   # Intraventricular hemorrhage/Hypertension: Believed due to ICH from
   hypertensive emergency.  Drains removed [**12-11**].
   - cont clonidine PO 0.1mg po tid
   - wean  nitro gtt, goal SBP < 170
   - repeat head CT stable but slightly more somnolent, may be related to
   hypernatremia
   - f/u nsurg recs
   - keppra 1g [**Hospital1 **]
   - Q4 hour neuro checks
   # Pulmonary embolus: Likely from heparin being held in the context of
   intraventricular bleed, stasis
   - Continue heparin drip with goal PTT 60-100 given possible upcoming
   procedures
   - Maintain up to date type and screen
   - GI PPx with famotidine
   - IVC filter in place. Will hopefully be removed once recovered from
   the present illness
   - Will eventually requre 3-6 months of AC for provoked DVT
   - f/u hypercoaguable workup
 Factor V, antithrombin pending
   # Hypoxic respiratory failure: PE and VAP.
   -continue heparin gtt, s/p IVC filter
   -continue abx x 2 week course after removing of drains (day 1 = [**12-12**])
   -O2 via nasal cannula
   # Hypernatremia:
   - correct with D5W
   # LLE DVT: as above heparin gtt and IVC filter
   # Ventriculitis: Elevated CSF WBC. Ventriculostomies pulled [**12-11**], will
   need two weeks of antibx
   - Continue vancomycin 1.25 daily  until at least 14 days after
   ventroculostomy removal. Goal vancomycin level 15-20. (day 1 = [**12-12**])
   - Continue ceftazidime 2g IV Q8H until at least 14 days after
   ventriculostomy removal
   - f/u ID recs
   - CSF and blood cultures pending
    # Acute renal failure: ?contrast nephropathy.  Cr 1.6.
   - Trend Cr daily
   - trend UOP
   - If Cr worsens, may need to consider stopping beta lactam
   # LFT abnormalities:  trend.   Improving markedly and may have been
   related to phenytoin/propafol vs shock liver.
   - Dilantin changed to keppra as noted above
   - Trend LFts and lipase
   - BCx pending
   - Trend transaminases and lipase
   - f/u hepatitis serologies
   # Diabetes: HISS
   ICU Care
   Nutrition:
   Comments: thin liquids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-12-6**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU until after PM CT Scan
   Time Spent :  30 min